US08471005B2
A mixture of 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.08 g, 0.3 mmol), 5-Amino-1H-pyridin-2-one (56.1 mg, 0.510 mmol), N,N-Diisopropylethylamine (0.181 mL, 1.04 mmol), and 1-Methoxy-2-propanol (0.5 mL, 5 mmol) were heated in the microwave at 200° C. for 30 minutes. The reaction was concentrated and redissolved in 2 ml of DMSO and placed onto the Gilson. The most pure fractions were combined basified with sat. sodium bicarbonate, extracted with DCM, dried filtered and concentrated to give 5-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-pyridin-2-one

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.3 mmol, 0.08 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 5-Amino-1H-pyridin-2-one | 0.510 mmol, 56.1 mg | NC=1C=CC(NC1)=O | C5H6N2O
reactant | N,N-Diisopropylethylamine | 1.04 mmol, 0.181 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 5 mmol, 0.5 mL | COCC(C)O | C4H10O2
product | 5-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-pyridin-2-one | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=CC(NC2)=O | C18H15N5O2
